US04623639
22.8 g (0.097 mol) of N-benzyloxycarbonyl-L-valinal were dissolved in 55 ml of dry methanol. The solution was treated with 10.8 g (0.102 mol) of trimethyl orthoformate and 0.3 g of toluene-4-sulphonic acid and the mixture was left to stand at room temperature for 16 hours. The solvents were removed by evaporation, the residue was dissolved in 150 ml of ethyl acetate and the solution was washed with 5% sodium bicarbonate solution and then with brine. After drying over magnesium sulphate and filtration, the solvent was removed by evaporation to yield 24.5 g (90%) of N-benzyloxycarbonyl-L-valinal dimethyl acetal as an oil; Rf-value [hexane/ethyl acetate (2:1)]: 0.69.

reactant | N-benzyloxycarbonyl-L-valinal | 0.097 mol, 22.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C=O | C13H17NO3
reactant | trimethyl orthoformate | 0.102 mol, 10.8 g | C(OC)(OC)OC | C4H10O3
solvent | methanol | 55 ml | CO | CH4O
catalyst | toluene-4-sulphonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-benzyloxycarbonyl-L-valinal dimethyl acetal | 24.5 g, 90% | COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)OC | C15H23NO4
